US07612114B2
6-[2-(Ethylphenethylamino)-4-hydroxyphenyl]-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2-phenylacetamide according to an analogous synthetic method to Example 337 described below, ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]phenethylamine (137 mg) was used according to an analogous synthetic method to Example 111 described below to provide the title compound (77 mg).

reactant | N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2-phenylacetamide | C(C)N(C(CC1=CC=CC=C1)=O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C28H31NO3
reactant | ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]phenethylamine | 137 mg | C(C)N(CCC1=CC=CC=C1)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C28H33NO2
product | 6-[2-(Ethylphenethylamino)-4-hydroxyphenyl]-5,6,7,8-tetrahydronaphthalen-2-ol | 77 mg | C(C)N(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CCC1=CC=CC=C1 | C26H29NO2
